US06207686B1
t-Butyl 2-(2-benzyloxycarbonylphenylmethyl)-3-cyclohexyl-3-hydroxypropionate (100 mg) was dissolved in a solution of 10% trifluoroacetic acid in dichloromethane (1 ml) and the mixture was stirred for 5 hours. The solution was evaporated under reduced pressure and the residue was purified by chromatography [eluting with methanol-dichloromethane (1:19)] to give 2-(2-benzyloxycarbonyl-phenylmethyl)-3-cyclohexyl-3-hydroxypropionic acid (35 mg).

reactant | t-Butyl 2-(2-benzyloxycarbonylphenylmethyl)-3-cyclohexyl-3-hydroxypropionate | 100 mg | C(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)CC(C(=O)OC(C)(C)C)C(O)C1CCCCC1 | C28H36O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-(2-benzyloxycarbonyl-phenylmethyl)-3-cyclohexyl-3-hydroxypropionic acid | 35 mg | C(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)CC(C(=O)O)C(O)C1CCCCC1 | C24H28O5
